US09108936B2
To a stirred solution of (3R)-3-hydroxy-4,4-dimethyl-pentanenitrile (0.8 g, 6.3 mmol) in methanol (10 ml) are added nickel(II) chloride hexahydrate (0.15 g, 0.63 mmol) and di-tert-butyl dicarbonate (2.8 ml, 12.6 mmol) at 0° C. To the solution is added sodium borohydride (1.68 g, 44.1 mmol) portion wise at 0° C. and the mixture is subsequently stirred at room temperature for 3 h. The reaction mixture is concentrated in vacuo and the resulting solid is taken up in 25% aqueous ammonia. The suspension is stirred for 30 min followed by extraction with dichloromethane (3×50 ml). The combined organic layers are dried over sodium sulfate and concentrated yielding N-[(3R)-3-hydroxy-4,4-dimethyl-pentyl]-carbamic acid tert-butyl ester, which is used in next step without further purification (1.2 g, 5.19 mmol, 82%).

reactant | (3R)-3-hydroxy-4,4-dimethyl-pentanenitrile | 6.3 mmol, 0.8 g | O[C@H](CC#N)C(C)(C)C | C7H13NO
reactant | di-tert-butyl dicarbonate | 12.6 mmol, 2.8 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium borohydride | 44.1 mmol, 1.68 g | [BH4-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
catalyst | nickel(II) chloride hexahydrate | 0.63 mmol, 0.15 g | O.O.O.O.O.O.[Ni](Cl)Cl
product | N-[(3R)-3-hydroxy-4,4-dimethyl-pentyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC[C@H](C(C)(C)C)O)=O | C12H25NO3
